US04764609
A. trans-(-)Octahydro-7-[[[(4-methylphenyl)sulfonyl]oxy]methylene]-1-(n-propyl)-6(2H)-quinolinone
A 1 l. 3-neck round bottom flask was purged with nitrogen and charged with 35.0 g (0.312 mol) of potassium t-butoxide. Next, 348 ml of dry tetrahydrofuran was added to the flask and the resulting mixture was cooled to about -15° C. with stirring. To this mixture was added a solution of 30.3 g (0.155 mol) of (8aR-trans)-(-)-octahydro-1-(n-propyl)-6-(2H)-quinolinone in 30 ml of tetrahydrofuran over a period of about 9 minutes while maintaining the temperature of the reaction mixture between about -15° C. and about -17° C. The stirred reaction mixture was allowed to warm to room temperature and the mixture was stirred for 1 hour. The reaction mixture was cooled to about -25° C. and a solution of 23.1 g (25.2 ml, 0.31 mol) of ethyl formate in 45 ml of tetrahydrofuran was added dropwise to the reaction mixture over a period of about 21 minutes. The resulting mixture was stirred for about 30 minutes at about -25° C. and was allowed to warm to about 5° C. The mixture was cooled to about -15° C. and held at that temperature for about 60 hours. The mixture was warmed to about 0° C. and charged with 8.9 ml of glacial acetic acid dropwise. The stirred reaction mixture was cooled to about -37° C. To the mixture was added a solution of 32.6 g (0.171 mol) of p-toluenesulfonyl chloride dissolved in 45 ml of tetrahydrofuran over a period of about 5 minutes. The reaction mixture was warmed to about 0° C. over a period of about 65 minutes and the mixture was held at this temperature for 17.5 hours. The title compound thus prepared was held in situ for further processing.

reactant | potassium t-butoxide | 0.312 mol, 35.0 g | CC(C)([O-])C.[K+]
reactant | (8aR-trans)-(-)-octahydro-1-(n-propyl)-6-(2H)-quinolinone | 0.155 mol, 30.3 g | C(CC)N1CCC[C@@H]2CC(CC[C@@H]12)=O | C12H21NO
reactant | ethyl formate | 0.31 mol, 25.2 ml, 23.1 g | C(=O)OCC | C3H6O2
reactant | p-toluenesulfonyl chloride | 0.171 mol, 32.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 348 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 8.9 ml | C(C)(=O)O | C2H4O2
product | trans-(-)Octahydro-7-[[[(4-methylphenyl)sulfonyl]oxy]methylene]-1-(n-propyl)-6(2H)-quinolinone | CC1=CC=C(C=C1)S(=O)(=O)OC=C1C(C[C@H]2CCCN([C@@H]2C1)CCC)=O | C20H27NO4S
